US03979403
The reaction between trichloroacetamidine and trichloromethanesulfenyl chloride to produce 3-trichloromethyl-5-chloro-1,2,4-thiadiazole appears to be a complex set of reactions occurring simultaneously which may be represented as follows: ##SPC1##

reactant | trichloroacetamidine | ClC(C(=N)N)(Cl)Cl | C2H3Cl3N2
reactant | trichloromethanesulfenyl chloride | ClC(SCl)(Cl)Cl | CCl4S
product | 3-trichloromethyl-5-chloro-1,2,4-thiadiazole | ClC(C1=NSC(=N1)Cl)(Cl)Cl | C3Cl4N2S
